US07968570B2
A mixture of 7-chloro-5-ethenyl-2-(4-ethyl-benzyl)-2,3-dihydro-isoindol-1-one (0.062 g, 0.2 mmol) and 10% palladium on carbon (20 mg) in ethanol (25 mL) was reduced under 45 p.s.i. hydrogen. Workup and silica gel column chromatography using combinations 3:1 hexane-ethyl acetate afforded 7-chloro-5-ethyl-2-(4-ethyl-benzyl)-2,3-dihydro-isoindol-1-one (0.031 g, 50%). 1H NMR (300 MHz, CDCl3): δ (ppm) 1.23 (t, 6H), 2.68 (q, 4H), 4.18 (s, 2H), 4.72 (s, 2H), 7.07 (s, 1H), 7.14-7.36 (m, 5H). GC-MS: m/z 313 (M)+, 284 (M−29)+.

reactant | 7-chloro-5-ethenyl-2-(4-ethyl-benzyl)-2,3-dihydro-isoindol-1-one | 0.2 mmol, 0.062 g | ClC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)CC)C=C | C19H18ClNO
reactant | hydrogen | [H][H] | H2
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
catalyst | palladium on carbon | 20 mg | [Pd] | Pd
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 7-chloro-5-ethyl-2-(4-ethyl-benzyl)-2,3-dihydro-isoindol-1-one | 0.031 g, 50% | ClC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)CC)CC | C19H20ClNO
